US05587224
To ice-cooled magnetically stirring acetic anhydride (81.0 g) was gradually added ice cold concentrated sulfuric acid (66 g). Most of the resulting solution (145 g) was transferred into a 250 mL addition funnel which was fitted to a 1 L three-necked round bottom flask containing potassium iodate (60 g), acetic anhydride (65 g), t-butylbenzene (80.4 g) and a magnetic stirring bar. The contents of the flask were cooled to -5° C. with a sodium chloride/ice bath. The acetic anhydride/sulfuric acid solution was added slowly over 3.5 h, keeping the temperature below 5° C. The mixture was stirred at room temperature for 114 h. The resulting viscous mixture was cooled to 5° C. before gradual addition of crushed ice (120 g), keeping the temperature below 10° C. The resulting mixture was then poured into a stirring ice (300 g)/water (1,200 g) mixture in a 2 L beaker. Stirring was continued for 5 minutes and then stopped. After 30 minutes standing, the aqueous layer was decanted. To the residue was added a solution of potassium chloride (75 g) in water (250 g), followed by stirring for 15 minutes. The aqueous layer (300 mL) was decanted. Ethyl ether (200 mL) was added, followed by stirring for 15 minutes to induce product precipitation (covered with aluminutesum foil during stirring). The precipitate was collected by suction filtration, rinsed with ether (200 mL) and air dried to give crude di(p-t-butylphenyl)iodonium chloride as an off white powder (64.0 g). A fraction of this compound (4.3 g, 0.01 mol), silver oxide (Ag2O, 2.6 g, 0.011 mol) and water (50 mL) was placed into a 4 oz polypropylene bottle and mixed by a wrist action shaker for 18 h. Solid was removed by suction filtration. Trifluoroacetic acid (0.7 g) was added to the filtrate to form a white precipitate. This was collected by suction filtration and air dried to give di(p-t-butylphenyl)iodonium trifluoroacetate as a white powder (3.0 g). Hereinafter, this compound is referred to as photoacid 2. Another fraction of the crude di(p-t-butylphenyl)iodonium chloride (4.3 g, 0.01 tool), silver oxide (Ag2O, 2.6 g, 0.011 tool) and water (50 mL) was placed into a 4 oz polypropylene bottle and mixed by a wrist action shaker for 18 h. Solid was removed by suction filtration. A 20% aqueous camphor sulfonic acid solution (5 g) was added dropwise to the filtrate to form a white precipitate. This was collected by suction filtration and air dried to give di(p-t-butylphenyl)iodonium camphor sulfonate as a white powder (4.0 g). This compound will be referred to as photoacid 2A. Another fraction of the crude di(p-t-butylphenyl)iodonium chloride (4.3 g, 0.01 mol), silver oxide (Ag2O, 2.6 g, 0.011 tool) and water (50 mL) was placed into a 4 oz polypropylene bottle and mixed by a wrist action shaker for 18 h. Solid was removed by suction filtration. A 20% aqueous toluene sulfonic acid solution (3 g) was added dropwise to the filtrate to form a white precipitate. This was collected by suction filtration and air dried to give di(p-t-butylphenyl)iodonium toluenesulfonate as a white powder (4.0 g). This compound is referred to as photoacid 2B. Another fraction of the crude di(p-t-butylphenyl)iodonium chloride (9.2 g) was dissolved in methanol (240 mL) in a 500 mL Erlenmeyer flask equipped with a magnetic stirrer. To this solution was added a sodium tetraphenylborate (6.8 g)/water (50 mL) solution to form a white precipitate immediately. The resulting mixture was stirred for 10 minutes and the precipitate was collected by suction filtration and air dried to give di(p-t-butylphenyl)iodonium tetraphenylborate as a white powder (12.0 g). This compound is referred to as photoacid 2C.

reactant | di(p-t-butylphenyl)iodonium chloride | 9.2 g | [Cl-].C(C)(C)(C)C1=CC=C(C=C1)[I+]C1=CC=C(C=C1)C(C)(C)C
reactant | sodium tetraphenylborate | 6.8 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | water | 50 mL | O | H2O
solvent | methanol | 240 mL | CO | CH4O
product | di(p-t-butylphenyl)iodonium tetraphenylborate | 12.0 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)(C)(C)C1=CC=C(C=C1)[I+]C1=CC=C(C=C1)C(C)(C)C | InChI=1S/C24H20B.C20H26I/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-19(2,3)15-7-11-17(12-8-15)21-18-13-9-16(10-14-18)20(4,5)6/h1-20H;7-14H,1-6H3/q-1;+1
